US06124457
Preparation One N-(5-Vinyl-pyridin-2-yl-acetamide
A solution of N-(5-bromo-pyridin-2-yl)-acetamide (4.30 9, 20 mmol) in acetonitrile (15 ml) and triethylamine (5.04 ml) was treated with palladium acetate (45 mg, 0.2 mmol) and tritolylphosphine (203 mg, 0.66 mmol). The mixture was placed in a pressure reactor under 50 psig of ethylene pressure and heated at 85° C. for 66 hours. The reaction mixture was cooled, vented, and partitioned between phosphate buffer (0.1 M, pH 6.6) and ethyl acetate. The aqueous phase was extracted with ethyl acetate twice more. The combined ethyl acetate extracts were washed with additional phosphate buffer, brine and dried over sodium sulfate. The extracts were filtered and evaporated to afford 2.06 g (63%) of the title product as a flaky crystalline residue. Recrystallization from ethyl acetate/cyclohexane gave colorless flakes mp 120-121° C. 1H NMR (CDCl3): δ=8.55 (br, 1 H); 8.24 (d, 1 H); 8.15 (d, 1 H); 7.76 (d of d, 1H); 6.64 (d of d, 1 H); 5.73 (d, 1 H); 5.28 (d, 1 H); 2.19 (s, 3 H). MS (Cl): m/z=163 (M+H+).

reactant | N-(5-bromo-pyridin-2-yl)-acetamide | 20 mmol | BrC=1C=CC(=NC1)NC(C)=O | C7H7BrN2O
reactant | tritolylphosphine | 0.66 mmol, 203 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | ethylene | C=C | C2H4
reactant | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | triethylamine | 5.04 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.2 mmol, 45 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Vinyl-pyridin-2-yl-acetamide | 2.06 g, 63% | C(=C)C=1C=CC(=NC1)CC(=O)N | C9H10N2O
